US09102686B2
methyl 5-fluoropyrimidine-2-carboxylate
To a solution of 5-fluoropyrimidine-2-carbonitrile (513 mg, 4.17 mmol) in MeOH (5 mL) was added 5 mL of concentrated HCl. The mixture was stirred at 80° C. for 2 h. The solution was allowed to cool to room temperature and then treated with a small amount of saturated aqueous NaHCO3 solution and a larger amount of solid NaHCO3. The solution was used to keep everything homogeneous. When the pH reached 6-7 the aqueous layer was extracted with 10% EtOAc/DCM. The combined organic layers containing the ester were dried over Na2SO4. The aqueous layer was acidified to pH 3-4 with 1N HCl and then extracted with 10% EtOAc/DCM to afford the acid. The ester layer was filtered, concentrated in vacuo to a white solid (460 mg, 71%). MS (ESI): mass calcd. C6H5FN2O2, 156.03; m/z found, 157.1 [M+H]+. 1H NMR (500 MHz, CDCl3): 8.80 (s, 2H), 4.07 (s, 3H).

reactant | 5-fluoropyrimidine-2-carbonitrile | 4.17 mmol, 513 mg | FC=1C=NC(=NC1)C#N | C5H2FN3
reactant | HCl | 5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | MeOH | 5 mL | CO | CH4O
product | methyl 5-fluoropyrimidine-2-carboxylate | FC=1C=NC(=NC1)C(=O)OC | C6H5FN2O2
